US04421758
(b) 1-{cis-β-[6-(2,4-dichlorobenzyloxy)tetrahydropyran-2-ylmethoxy]phenethyl}imidazole
1 ml of a dimethylformamide solution containing 23 mg of 1-phenyl-2-(1-imidazolyl)ethanol was heated at 50° C. for 30 minutes with 5 mg of 55% sodium hydride, and then 1 ml of a dimethylformamide solution containing 65 mg of cis-6-(2,4-dichlorobenzyloxy)-2-tosyloxymethyltetrahydropyran, prepared as described in Example 2(a), were added thereto. The mixture was heated at 85° C. for 3 hours and then the mixture was treated and the product purified essentially as described in (a) above, to give 20 mg of the title compound as a liquid.

reactant | 1-phenyl-2-(1-imidazolyl)ethanol | 23 mg | C1(=CC=CC=C1)C(CN1C=NC=C1)O | C11H12N2O
reactant | sodium hydride | 5 mg | [H-].[Na+]
reactant | cis-6-(2,4-dichlorobenzyloxy)-2-tosyloxymethyltetrahydropyran | 65 mg | ClC1=C(CO[C@@H]2CCC[C@@H](O2)COS(=O)(=O)C2=CC=C(C)C=C2)C=CC(=C1)Cl | C20H22Cl2O5S
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 1-{cis-β-[6-(2,4-dichlorobenzyloxy)tetrahydropyran-2-ylmethoxy]phenethyl}imidazole | 20 mg | ClC1=C(CO[C@@H]2CCC[C@@H](O2)COC(CN2C=NC=C2)C2=CC=CC=C2)C=CC(=C1)Cl | C24H26Cl2N2O3
